US08431573B2
4-(Cyclopentylamino)-2-(3-fluorobenzyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile
In analogy to the preparation of Example 1, 100 mg (0.36 mmol) of 2-(3-fluorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile are reacted with 309 mg (3.63 mmol) of cyclopentylamine to give 12 mg (11% of theory) of the title compound.

reactant | 2-(3-fluorobenzyl)-4-(methyl-sulphanyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | 0.36 mmol, 100 mg | FC=1C=C(CC=2NC(C(=C(N2)SC)C#N)=O)C=CC1 | C13H10FN3OS
reactant | cyclopentylamine | 3.63 mmol, 309 mg | C1(CCCC1)N | C5H11N
product | 4-(Cyclopentylamino)-2-(3-fluorobenzyl)-6-oxo-1,6-dihydropyrimidine-5-carbonitrile | C1(CCCC1)NC=1N=C(NC(C1C#N)=O)CC1=CC(=CC=C1)F | C17H17FN4O
